US07897609B2
Hydrogen chloride (56.74 g of a 2.2 M solution in ethanol, 124.8 mmol) was added to a suspension of tert-butyl {2-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-1,1-dimethylethyl}carbamate (15.40 g, 31.21 mmol) in anhydrous ethanol (120 mL), and the reaction mixture was heated at reflux for four hours and allowed to cool to room temperature. A precipitate had formed and was isolated by filtration, washed with a small volume of cold ethanol, and dried in a vacuum oven at 60° C. to provide 12.26 g of 1-(2-amino-2-methylpropyl)-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine dihydrochloride.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl {2-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-1,1-dimethylethyl}carbamate | 31.21 mmol, 15.40 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(C)NC(OC(C)(C)C)=O)COCC)Br | C21H29BrN6O3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 1-(2-amino-2-methylpropyl)-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine dihydrochloride | 12.26 g | Cl.Cl.NC(CN1C(=NC=2C(=NC=3C=C(C=NC3C21)Br)N)COCC)(C)C | InChI=1S/C16H21BrN6O.2ClH/c1-4-24-7-11-22-13-14(23(11)8-16(2,3)19)12-10(21-15(13)18)5-9(17)6-20-12;;/h5-6H,4,7-8,19H2,1-3H3,(H2,18,21);2*1H
